US05919780
(8-Chloro-5H-dibenzo[b,e][1,4]diazepin-11-yl)-(2-imidazol-1-yl-ethyl)-amine
A solution of 0.6 g (2.3 mmol) of 8-chloro-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione in 15 mL of 2-ethoxyethanol was treated with 0.6 mL (4.6 mmol) of 1-(2-aminoethyl)imidazole and heated at reflux for 2 days. The solvent was removed under reduced pressure and the residue taken up in EtOAc and washed three times with H2O, then saturated NaHCO3 solution, and saturated NaCl solution. Drying over MgSO4 and removal of the solvent under reduced pressure left the crude product. This was recrystallized from EtOAc/hexane using charcoal to give 0.44 g (57.1% yield) of the product as pale yellow crystals, mp 168-170° C. The structure was confirmed by NMR and mass spectroscopy. (m+H)+ =338.

reactant | 8-chloro-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione | 2.3 mmol, 0.6 g | ClC=1C=CC2=C(NC(C3=C(N2)C=CC=C3)=S)C1 | C13H9ClN2S
reactant | 1-(2-aminoethyl)imidazole | 4.6 mmol, 0.6 mL | NCCN1C=NC=C1 | C5H9N3
solvent | 2-ethoxyethanol | 15 mL | C(C)OCCO | C4H10O2
product | (8-Chloro-5H-dibenzo[b,e][1,4]diazepin-11-yl)-(2-imidazol-1-yl-ethyl)-amine | 0.44 g, 57.1% yield | ClC=1C=CC2=C(N=C(C3=C(N2)C=CC=C3)NCCN3C=NC=C3)C1 | C18H16ClN5
